US08492378B2
benzyl 2-[2-[(3-phenylpropanoyl)amino]isonicotinoyl]hydrazinecarboxylate
In the same manner as in Reference Example 1 and using 2-[(3-phenylpropanoyl)amino]isonicotinic acid instead of benzothiazole-6-carboxylic acid and benzyl carbazate instead of tert-butyl carbazate, the title compound (yield 53%) was obtained as colorless amorphous.

reactant | 2-[(3-phenylpropanoyl)amino]isonicotinic acid | C1(=CC=CC=C1)CCC(=O)NC=1C=C(C(=O)O)C=CN1 | C15H14N2O3
reactant | benzyl carbazate | C(NN)(=O)OCC1=CC=CC=C1 | C8H10N2O2
product | benzyl 2-[2-[(3-phenylpropanoyl)amino]isonicotinoyl]hydrazinecarboxylate | yield 53% | C1(=CC=CC=C1)CCC(=O)NC=1C=C(C(=O)NNC(=O)OCC2=CC=CC=C2)C=CN1 | C23H22N4O4
